US05985900
To a vigorously stirred solution of 1.00 kg (5.85 mol) of 4-phenoxypyridine (Tetrahedron, 1978, 34, 2069-2076) in dry 1,2-dichloroethane (3000 L) at -10° C. under a stream of argon was added chlorosulfonic acid (974 mL) at a rate so as to maintain the reaction temperature below 0° C. After half of the chlorosulfonic acid was added, the exotherm stopped. The cooling bath was removed and the addition of chlorosulfonic acid continued over 3 hours while the reaction solution warmed to room temperature. While continually purging with argon, the vigorously stirred reaction mixture was heated to 45° C. After 20 hours, the reaction mixture was cooled to room temperature and slowly poured into vigorously stirred ice cold water (5 L). Potassium phosphate tribasic (212 g) was added as a solid to the mixture and this was stirred for 10 minutes followed by addition of sodium hydroxide (2M) to pH 2. After stirring for 1 hour, the pH was changed to 7 by the addition of sodium hydroxide (2M). Agitation was continued for 5 minutes; then the organic layer was drained off and discarded. The mixture was extracted a second time with dichloromethane (2 L), and the organic layer drained off and discarded. The remaining aqueous phase was extracted with tetrabutylammonium bromide (940 g) in dichloromethane (6L), adjusting the aqueous phase to pH 7 with 2M aq. sodium hydroxide as necessary. The extraction was repeated two more times and the combined organic layers were dried over magnesium sulfate, filtered, and concentrated. The residue was dissolved with 20% ethanol in ethyl acetate (8 L, dry), and hydrogen chloride gas added to achieve a pH of 1. The solid was filtered off, and the filter cake was rinsed with the precipitation solvent mixture (20% ethyanol in ethyl acetate, 2 L). The solid was dried under vacuum at 45° C. for 15 hours to yield 4-(pyrid-4-yl)oxybenzenesulfonic acid (1.3 kg) as a white powdery solid.

reactant | 4-phenoxypyridine | 5.85 mol, 1.00 kg | O(C1=CC=CC=C1)C1=CC=NC=C1 | C11H9NO
reactant | chlorosulfonic acid | 974 mL | ClS(=O)(=O)O | ClHO3S
reactant | Potassium phosphate tribasic | 212 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | 1,2-dichloroethane | 3000 L | ClCCCl | C2H4Cl2
product | 4-(pyrid-4-yl)oxybenzenesulfonic acid | 1.3 kg | N1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)O | C11H9NO4S
